US06949583B2
I. Isopropyl 2-butyl-3-[4-[3-(dibutylamino)propyl]benzoyl]-1-benzofuran-7-carboxylate oxalate
4.5 g (0.0095 mol) of isopropyl 2-butyl-3-[4-(3-bromopropyl)benzoyl]-1-benzofuran-7-carboxylate are dissolved in 80 ml of acetonitrile. 3.68 g (0.0285 mol) of dibutylamine are then added, followed by 1.42 g (0.0095 mol) of sodium iodide and 3.94 g (0.0285 mol) of potassium carbonate. The mixture is brought to reflux for 15 hours and is then evaporated. Extraction is carried out with diethyl ether and the extract is washed with water and a sodium chloride solution. Purification is subsequently carried out by chromatography on silica (eluent: 100/3/0.2 dichloromethane/methanol/aqueous ammonia), which gives 2.91 g of the desired compound in the free base form (yield: 57%).

reactant | isopropyl 2-butyl-3-[4-(3-bromopropyl)benzoyl]-1-benzofuran-7-carboxylate | 0.0095 mol, 4.5 g | C(CCC)C=1OC2=C(C1C(C1=CC=C(C=C1)CCCBr)=O)C=CC=C2C(=O)OC(C)C | C26H29BrO4
reactant | dibutylamine | 0.0285 mol, 3.68 g | C(CCC)NCCCC | C8H19N
reactant | sodium iodide | 0.0095 mol, 1.42 g | [I-].[Na+]
reactant | potassium carbonate | 0.0285 mol, 3.94 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | Isopropyl 2-butyl-3-[4-[3-(dibutylamino)propyl]benzoyl]-1-benzofuran-7-carboxylate oxalate | 2.91 g, yield: 57% | C(C(=O)O)(=O)O.C(CCC)C=1OC2=C(C1C(C1=CC=C(C=C1)CCCN(CCCC)CCCC)=O)C=CC=C2C(=O)OC(C)C | InChI=1S/C34H47NO4.C2H2O4/c1-6-9-17-30-31(28-15-12-16-29(33(28)39-30)34(37)38-25(4)5)32(36)27-20-18-26(19-21-27)14-13-24-35(22-10-7-2)23-11-8-3;3-1(4)2(5)6/h12,15-16,18-21,25H,6-11,13-14,17,22-24H2,1-5H3;(H,3,4)(H,5,6)
